US05696111
EXAMPLE 2 N-[1-methyl-5-acetoxy-2-oxobenzazepin-3-yl]-3-(2,4-dichlorophenyl)-propanamide
To a stirred suspension of 3-(2,4-Dichloro-phenyl)-N-(1-methyl-2,5-dioxo-2,3,4,5-tetrahydro-1H-benzo[b]azepin-3-yl)-propionamide (3.7 mmol, 1.5 g) in 15 ml EtOH and 5 ml THF was added NaBH4 (3.7 mmol, 0.14 g). This was stirred at rt for 1 h. The reaction was then diluted with 200 ml EtOAc and extracted with 2×100 ml 1N HCl. The organic layer was dried with brine and evaporated under vacuum to 1.4 g of a white powder. The solid was carried on without further purification. To a stirred suspension of the above alcohol in 4 ml CH2Cl2 was added acetic anhydride (0.73 mmol, 75 mg, 0.07 ml), triethyl amine (0.73 mmol, 74 mg, 0.10 ml), 4-dimethylaminopyridine (0.098 mmol,11.9 mg) and the reaction was stirred at rt. The reaction mixture was then diluted with 25 ml CH2Cl2 and extracted with 25 ml H2O, 25 ml saturated NaHCO3. The organic phase was dried with brine and evaporated to a colorless oil. The resulting oil was chromatographed over silica, eluting with 20% to 50% EtOAc:Hex. The pure fractions were collected, evaporated under vacuum, taken up in CH2Cl2 and allowed to evaporate to dryness overnight, resulting in 110 mg of a white solid. mp 142°-144° C.

reactant | 3-(2,4-Dichloro-phenyl)-N-(1-methyl-2,5-dioxo-2,3,4,5-tetrahydro-1H-benzo[b]azepin-3-yl)-propionamide | 3.7 mmol, 1.5 g | ClC1=C(C=CC(=C1)Cl)CCC(=O)NC1CC(C2=C(N(C1=O)C)C=CC=C2)=O | C20H18Cl2N2O3
reactant | NaBH4 | 3.7 mmol, 0.14 g | [BH4-].[Na+]
reactant | acetic anhydride | 0.73 mmol, 0.07 ml, 75 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethyl amine | 0.73 mmol, 0.10 ml, 74 mg | C(C)N(CC)CC | C6H15N
solvent | EtOH | 15 ml | CCO | C2H6O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | EtOAc | 200 ml | CCOC(=O)C | C4H8O2
catalyst | 4-dimethylaminopyridine | 0.098 mmol, 11.9 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
product | N-[1-methyl-5-acetoxy-2-oxobenzazepin-3-yl]-3-(2,4-dichlorophenyl)-propanamide | 110 mg | CN1C(C(C=C(C2=C1C=CC=C2)OC(C)=O)NC(CCC2=C(C=C(C=C2)Cl)Cl)=O)=O | C22H20Cl2N2O4
